US06028100
To a mixture of 0.42 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(methylamino)propyloxy)benzene, 0.18 ml of triethylamnine and 10 ml of chloroform was added 0.18 ml of 4-(trifluoromethyl)benzoyl chloride, while stirring under ice cooling. After stirring at room temperature for 6 hours, the reaction mixture was concentrated to give a residue. The residue was dissolved in 50 ml of ethyl acetate, and the ethyl acetate layer was successively washed with 10% hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and saturated saline solution, dried over anhydrous magnesium sulfate, and then concentrated to give a residue. The residue was subjected to silica gel chromatography, which afforded 0.35 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(N-methyl-4-(trifluoromethyl)benzamido)propyloxy)benzene (55% yield), nD24.5 1.5461.

reactant | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(methylamino)propyloxy)benzene | 0.42 g | ClC=1C=C(C=C(C1OCCCNC)Cl)OCC=C(Cl)Cl | C13H15Cl4NO2
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 4-(trifluoromethyl)benzoyl chloride | 0.18 ml | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(N-methyl-4-(trifluoromethyl)benzamido)propyloxy)benzene | 0.35 g, 55% yield | ClC=1C=C(C=C(C1OCCCN(C(C1=CC=C(C=C1)C(F)(F)F)=O)C)Cl)OCC=C(Cl)Cl | C21H18Cl4F3NO3
